* File: xnor2.pex.sp.pex
* Created: Thu May  8 13:46:32 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_XNOR2%Z 1 2 6 9 13 20 21 25 27 28 32 38 40
c82 32 0 2.47606e-19
c83 13 0 0.00583972f
r84 36 40 0.0371092
r85 36 38 0.681032
r86 31 34 0.445845
r87 31 32 0.317665
r88 29 40 0.00964403
r89 29 32 0.496444
r90 27 40 0.0371092
r91 27 28 0.17293
r92 23 28 0.0489649
r93 23 25 1.83228
r94 20 38 25
r95 20 22 7.58398
r96 20 21 7.60965
r97 13 25 10
r98 9 34 15
r99 9 31 10
r100 6 22 41.0079
r101 4 21 148.214
r102 2 6 46.5732
r103 1 4 27.3386
.ends

.subckt PM_XNOR2%GND! 2 13 16 17 22 27
c48 22 0 0.00510294f
c49 13 0 0.00108211f
c50 2 0 0.00118617f
r51 20 27 0.0188364
r52 20 22 1.13667
r53 17 27 0.0271748
r54 16 17 0.214471
r55 13 22 10
r56 2 27 30
.ends

.subckt PM_XNOR2%NET3 1 3 8 10 11 15
c35 3 0 0.00475028f
c36 1 0 0.0013404f
r37 14 15 0.307837
r38 12 15 0.183616
r39 10 12 0.0489649
r40 10 11 0.652858
r41 6 11 0.0489649
r42 6 8 0.427467
r43 3 14 10
r44 1 8 10
.ends

.subckt PM_XNOR2%OUT 1 5 10 18 19 22 25
c57 22 0 8.6154e-20
c58 10 0 1.53413e-19
c59 5 0 0.00125496f
r60 25 29 0.16333
r61 22 24 0.307837
r62 20 24 0.0816072
r63 18 20 0.0489649
r64 18 19 0.38472
r65 13 14 0.122033
r66 12 16 0.388606
r67 12 14 0.759725
r68 10 29 1.7
r69 10 13 0.345859
r70 8 19 0.0489649
r71 8 10 1.02981
r72 5 22 10
r73 1 16 15
r74 1 12 10
.ends

.subckt PM_XNOR2%VDD! 2 12 13 15 22 27 32 37 41 47
c69 47 0 0.0246769f
c70 37 0 8.48619e-19
c71 27 0 0.0248015f
r72 47 50 0.388606
r73 45 55 0.016797
r74 45 50 1.28337
r75 42 54 0.0291575
r76 42 44 0.149613
r77 41 55 0.0291575
r78 41 44 1.00357
r79 37 40 0.388606
r80 35 54 0.016797
r81 35 40 1.28143
r82 33 53 0.0291575
r83 32 54 0.0291575
r84 30 31 0.318779
r85 27 30 0.445845
r86 25 53 0.016797
r87 25 31 1.0026
r88 22 32 0.00777212
r89 22 33 0.704348
r90 15 50 15
r91 15 47 10
r92 13 40 15
r93 13 37 10
r94 12 30 15
r95 12 27 10
r96 2 44 30
.ends

.subckt PM_XNOR2%INA 1 2 3 4 5 8 11 14 18 19 20 21 22 26 28 29 32 37
c83 32 0 1.01257e-19
c84 28 0 3.86936e-19
c85 21 0 1.53405e-19
c86 18 0 1.44516e-19
r87 37 41 0.178022
r88 32 41 1.7
r89 32 35 0.00485757
r90 28 35 25
r91 28 30 7.74553
r92 28 29 9.90205
r93 21 26 3.46412
r94 21 22 176.139
r95 19 23 3.46412
r96 19 20 176.139
r97 18 22 3.46412
r98 17 20 3.46412
r99 15 26 50.3811
r100 14 30 78.5008
r101 12 29 100.665
r102 11 23 52.4315
r103 9 18 50.3811
r104 6 8 217.635
r105 5 17 52.4315
r106 4 15 46.6709
r107 4 14 46.5732
r108 3 9 46.6709
r109 3 8 46.5732
r110 2 12 27.3386
r111 2 11 27.3386
r112 1 6 27.3386
r113 1 5 27.3386
.ends

.subckt PM_XNOR2%INB 1 2 3 4 5 8 11 14 17 20 24 25 26 27 28 30 31 32 34 39
c100 34 0 1.08938e-19
c101 32 0 1.42684e-19
c102 24 0 1.03089e-19
r103 39 43 0.177157
r104 34 43 1.7
r105 34 37 0.00485757
r106 27 30 3.46412
r107 27 28 72.1543
r108 25 29 3.46412
r109 25 26 72.1543
r110 24 28 3.46412
r111 21 26 3.46412
r112 20 37 25
r113 18 32 6.76244
r114 18 20 0.770186
r115 17 31 6.76244
r116 17 20 3.13209
r117 15 30 26.1669
r118 12 14 217.635
r119 11 29 34.3685
r120 9 24 26.1669
r121 8 32 78.5984
r122 6 31 100.567
r123 5 21 34.3685
r124 4 15 46.6709
r125 4 14 46.5732
r126 3 9 46.6709
r127 3 8 46.5732
r128 2 12 27.3386
r129 2 11 27.3386
r130 1 6 27.3386
r131 1 5 27.3386
.ends

